US04804662
N-[(1-Ethylpyrrolidin-2-yl)methyl]-4-fluorobenzamide
Add 5.05 g (31.8 mmol) of p-fluorobenzoyl chloride drop-wise to a 0° C. solution of 4.08 g (31.8 mmol) of 1-ethyl-2-(aminomethyl)pyrrolidine and 3.85 (35.0 mmol) of sodium carbonate in 50 mL of water. Stir the resultant solution at 0° C. for about 30 minutes, then at room temperature for about 20 hr. Extract the resultant solution with methylene chloride (2×100 mL). Dry the combined extracts with Na2SO4 and evaporate the solvent to give the title compound.

reactant | p-fluorobenzoyl chloride | 31.8 mmol, 5.05 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
reactant | 1-ethyl-2-(aminomethyl)pyrrolidine | 31.8 mmol, 4.08 g | C(C)N1C(CCC1)CN | C7H16N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 50 mL | O | H2O
product | N-[(1-Ethylpyrrolidin-2-yl)methyl]-4-fluorobenzamide | C(C)N1C(CCC1)CNC(C1=CC=C(C=C1)F)=O | C14H19FN2O
